US07585885B2
5-Amino-6-fluoro-N-methyl-N-propyl-isophthalamic acid ethyl ester
Dissolve 5-dibenzylamino-6-fluoro-N-methyl-N-propyl-isophthalamic acid ethyl ester (275 mg, 0.595 mmol) in ethanol (6 mL). Add 10% Pd/C to the solution (50 mg). Stir the black slurry under a balloon containing hydrogen gas for 2.5 days. Filter the slurry through a pad of filtering agent and wash with ethanol. Concentrate the filtrate to give the title compound as a crude product.

reactant | 5-dibenzylamino-6-fluoro-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.595 mmol, 275 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C28H31FN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-6-fluoro-N-methyl-N-propyl-isophthalamic acid ethyl ester | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1F)N)=O | C14H19FN2O3
